US04994584
Synthesis of (1R,2R, 6S,8R,10RS, 10SR)-10-[1(RS)-fluoro-pentyl]-10-methoxy -5,9-dioxatricyclo[6.4.0.02,6 ]dodecane-4-one:
According to a similar manner as described in example 4, using (1S,5R,6R,7R)-6-[4(RS)-fluoro-3-oxo-1-octyl]-7-hydroxy-2-oxabicyclo[3.3.0]octane-3-one (0.263 g) and camphor sulfonic acid (0.021 g), the title compound was obtained (yields: 0.236 g, 86%).

reactant | (1S,5R,6R,7R)-6-[4(RS)-fluoro-3-oxo-1-octyl]-7-hydroxy-2-oxabicyclo[3.3.0]octane-3-one | 0.263 g | FC(C(CC[C@@H]1[C@H]2CC(O[C@H]2C[C@H]1O)=O)=O)CCCC | C15H23FO4
reactant | camphor sulfonic acid | 0.021 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
product | 10-[1(RS)-fluoro-pentyl]-10-methoxy -5,9-dioxatricyclo[6.4.0.02,6 ]dodecane-4-one | FC(CCCC)C1(OC2CC3OC(CC3C2CC1)=O)OC | C16H25FO4
